US06562828B1
N,N′-Di-tert-butoxycarbonyl-7-[1-(2-hydroxy-2-phenylethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine
To a solution of N,N′-di-tert-butoxycarbonyl-7-(1-phenacylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (120 mg) in a mixture of tetrahydrofuran (1 ml) and methanol (0.2 ml) was added sodium borohydride (11 mg), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=5:1, 1% triethylamine) and dried under reduced pressure to give the title compound (90 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-(1-phenacylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 120 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)CC(=O)C1=CC=CC=C1 | C34H46N4O6
reactant | sodium borohydride | 11 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.2 ml | CO | CH4O
product | N,N′-Di-tert-butoxycarbonyl-7-[1-(2-hydroxy-2-phenylethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 90 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)CC(C1=CC=CC=C1)O | C34H48N4O6
